US03952104
To a chilled solution of 1.02 parts of 6,8-di-t-butyl-4-oxo-4H-1-benzopyran-2-carboxylic acid ethyl ester in 100 parts of ethanol was added 3.1 parts of N sodium hydroxide solution. After the solution had been stirred at room temperature for one hour the solvent was evaporated and the remaining solid was triturated with ether and filtered off to yield 0.93 parts of 6,8-di-t-butyl-4-oxo-4H-1-benzopyran-2-carboxylic acid sodium salt.

reactant | 6,8-di-t-butyl-4-oxo-4H-1-benzopyran-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=C(C(C1)=O)C=C(C=C2C(C)(C)C)C(C)(C)C | C20H26O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6,8-di-t-butyl-4-oxo-4H-1-benzopyran-2-carboxylic acid sodium salt | [Na+].C(C)(C)(C)C=1C=C(C2=C(C(C=C(O2)C(=O)[O-])=O)C1)C(C)(C)C | InChI=1S/C18H22O4.Na/c1-17(2,3)10-7-11-13(19)9-14(16(20)21)22-15(11)12(8-10)18(4,5)6;/h7-9H,1-6H3,(H,20,21);/q;+1/p-1
